US04515948
Preparation of 2,4-diamino-5-(4-amino-3,5-dimethoxy-benzyl)-pyrimidine
A suspension of 1.04 g. of 4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxy-carbanilic acid ethyl ester in a mixture of 50 ml. of 4N sodium hydroxide and 50 ml. of ethanol was boiled under reflux for 18 hours, whereby a solution gradually resulted. The alcohol was removed under vacuum. After standing at room temperature for 1 hour, the crystallized 2,4-diamino-5-(4-amino-3,5-dimethoxy-benzyl)-pyrimidine was removed by filtration with suction, washed with water, recrystallized from methanol and had a melting point of 215°-216° C.

reactant | 4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxy-carbanilic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1OC)CC=1C(=NC(=NC1)N)N)OC)=O | C16H21N5O4
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2,4-diamino-5-(4-amino-3,5-dimethoxy-benzyl)-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)N)OC | C13H17N5O2
